US06482829B2
2-[8-(3,5-Bis-trifluoromethyl-benzoyl)-1-(2-chloro-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-3-yl]-N,N-dimethyl-acetamide
The title compound, MS: m/e=591.0 (M+H+), was prepared in accordance with the general method of example 71 from 8-(3,5-bis-trifluoromethyl-benzoyl)-1-(2-chloro-phenyl)-1,3,8-triaza-spiro[4.5]decan-4-one and 2-chloro-N,N-dimethylacetamide.

reactant | 8-(3,5-bis-trifluoromethyl-benzoyl)-1-(2-chloro-phenyl)-1,3,8-triaza-spiro[4.5]decan-4-one | FC(C=1C=C(C(=O)N2CCC3(C(NCN3C3=C(C=CC=C3)Cl)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C22H18ClF6N3O2
reactant | 2-chloro-N,N-dimethylacetamide | ClCC(=O)N(C)C | C4H8ClNO
product | 2-[8-(3,5-Bis-trifluoromethyl-benzoyl)-1-(2-chloro-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-3-yl]-N,N-dimethyl-acetamide | FC(C=1C=C(C(=O)N2CCC3(C(N(CN3C3=C(C=CC=C3)Cl)CC(=O)N(C)C)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C26H25ClF6N4O3
